US08604110B2
Toluene+Maleic Anhydride Radical Alkylation Using Air Parr Reactor
125 g (1.36 moles) of toluene and 13.3 g (0.136 moles) of maleic anhydride were weighed into a 300 ml Parr reactor. The reactor was heated to 180° C. then pressurized to 60 psi with air to initiate maleic anhydride free radical formation. The solution was stirred at 180° C. for 4 hr. The reactor was cooled to room temperature, and then the contents were transferred to a round bottom flask. The toluene and maleic anhydride were removed with a rotary evaporator. Weight of residue was 1.4 g.

reactant | toluene | 1.36 moles, 125 g | C1(=CC=CC=C1)C | C7H8
reactant | maleic anhydride | 0.136 moles, 13.3 g | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Toluene Maleic Anhydride | C1(=CC=CC=C1)C.C1(\C=C/C(=O)O1)=O | InChI=1S/C7H8.C4H2O3/c1-7-5-3-2-4-6-7;5-3-1-2-4(6)7-3/h2-6H,1H3;1-2H
